US07470807B2
According to a known method described in a publication (Anderson, L. C. et al., J. Am. Chem. Soc, 1943, vol. 65, p. 241), a solution of 2-amino-6-bromonaphthalene (223 mg) obtainable from commercially available 2-bromo-6-hydroxynaphthalene (TCI) in anhydrous THF (10 ml) was added with 30% potassium hydride (191 mg, Ald) under ice cooling, and stirred for 1 hour. The reaction mixture was cooled to −78° C. under argon gas atmosphere, added dropwise with a 1.7 M solution of t-butyllithium in pentane (1.88 ml) over 10 minutes, and stirred for 30 minutes. This reaction mixture was added dropwise with (iPrO)3B (0.92 ml) over 10 minutes, stirred for 30 minutes, then warmed to room temperature, and further stirred for 3 hours. The reaction mixture was added with water (3 ml) and 0.5 M aqueous sulfuric acid (4 ml), and extracted with diethyl ether (100 ml×3). The organic layer was washed with saturated brine and dried, and then the solvent was evaporated under reduced pressure to obtain crude 6-amino-2-naphthaleneboronic acid (402 mg). A solution of this substance in ethanol (0.5 ml), Compound No. A-1 (119 mg), 2 M aqueous sodium carbonate (1.5 ml) and (Ph3P)4Pd (61 mg) were reacted and treated according to the procedure described in the synthesis method of Compound No. V-3 with the modifications that the reaction was carried out for 13 hours, and the purification was performed by flash column chromatography (hexane:ethyl acetate 4:1) to obtain the title compound (Compound No. V-13, 129 mg).

reactant | 2-amino-6-bromonaphthalene | 223 mg | NC1=CC2=CC=C(C=C2C=C1)Br | C10H8BrN
reactant | 2-bromo-6-hydroxynaphthalene | BrC1=CC2=CC=C(C=C2C=C1)O | C10H7BrO
reactant | potassium hydride | 191 mg | [H-].[K+]
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | (iPrO)3B | 0.92 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | sulfuric acid | 0.5 M, 4 ml | S(O)(O)(=O)=O | H2O4S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | pentane | 1.88 ml | CCCCC | C5H12
solvent | water | 3 ml | O | H2O
product | 6-amino-2-naphthaleneboronic acid | 402 mg | NC=1C=C2C=CC(=CC2=CC1)B(O)O | C10H10BNO2
